US04550105
In 3 ml of ethanol is dissolved 1.0 g of methyl 2-(2-hydroxy-4-thiazolyl)-(Z)-2-methoxyiminoacetate, and under ice-cooling 5 ml of an aqueous solution of potassium hydroxide (1.3 g) is added dropwise. The mixture is allowed to stand for 4 hours, adjusted to pH 2-3 with 1N hydrochloric acid, and extracted three times with n-butanol. The extracts are combined, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The procedure gives a light-brown powder of 2-(2-hydroxy-4-thiazolyl)-(Z)-2-methoxyiminoacetic acid, m.p. 143°-144° C. (decomp.).

reactant | methyl 2-(2-hydroxy-4-thiazolyl)-(Z)-2-methoxyiminoacetate | 1.0 g | OC=1SC=C(N1)/C(/C(=O)OC)=N/OC | C7H8N2O4S
reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 2-(2-hydroxy-4-thiazolyl)-(Z)-2-methoxyiminoacetic acid | OC=1SC=C(N1)/C(/C(=O)O)=N/OC | C6H6N2O4S
